US04057641
(2-Ethyl-4-oxo-4H-1-benzopyran-6-yl)acetic acid
This red solution was added dropwise to a stirred solution of 2-(2-ethyl-4-oxo-4H-1-benzopyran-6-yl)ethan-1-ol (3.5g) in acetone (30 mls) maintained at 20° C until a permanent red colouration was obtained. The reaction was stirred at room temperature for a further 11/2 hours. Water was added and the product was extracted with ether (3x). The separated ethereal solution was extracted with sodium bicarbonate which was washed with water, acidified with dilute hydrochloric acid and extracted with chloroform. The chloroform solution was washed with a small volume of saturated brine solution and dried over anhydrous magnesium sulphate. Evaporation of the solvent yielded the product as an off-white solid (2.2g). Recrystallisation from benzene yielded pale yellow needle crystals mp 171°-172° C (1.1g). The mother liquors were concentrated and a second crop was obtained as a pale yellow solid (0.6g).

reactant | 2-(2-ethyl-4-oxo-4H-1-benzopyran-6-yl)ethan-1-ol | 3.5g | C(C)C=1OC2=C(C(C1)=O)C=C(C=C2)CCO | C13H14O3
reactant | Water | O | H2O
solvent | acetone | 30 mls | CC(=O)C | C3H6O
product | (2-Ethyl-4-oxo-4H-1-benzopyran-6-yl)acetic acid | 2.2g | C(C)C=1OC2=C(C(C1)=O)C=C(C=C2)CC(=O)O | C13H12O4
